US07696193B2
1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-2-azetidinone (E219)
Cesium carbonate (678 mg, 1.04 mmol) was added to a solution of 2-azetidinone (308 mg, 4.3 mmol) in dioxane (1 ml). The mixture was heated in a microwave reactor at 150° C. for 1 minute then a mixture of 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine (E207) (294 mg, 0.7 mmol), trans-1,2-diaminocyclohexane (0.02 ml) and copper (I) iodide (126 mg, 1.2 mmol) were added and the resulting mixture was heated in microwave reactor at 180° C. for 1 hour. The reaction mixture was cooled and applied to a SCX cartridge (Varian bond-elute, 10 g) and washed with methanol and then a mixture of 0.880 ammonia:methanol (1:9). The combined basic fractions were concentrated in vacuo and the resulting residue purified by column chromatography (0.5:2.5:97.5) to afford the title compound (E219). MS (ES+) m/e 364 [M+H]+.

reactant | Cesium carbonate | 1.04 mmol, 678 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-azetidinone | 4.3 mmol, 308 mg | N1C(CC1)=O | C3H5NO
reactant | 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.7 mmol, 294 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)I | C19H21IN2O
reactant | trans-1,2-diaminocyclohexane | 0.02 ml | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 1.2 mmol, 126 mg | [Cu]I
product | 1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-2-azetidinone | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C=N2)N2C(CC2)=O | C22H25N3O2
